US05149696
4-trimethylsilylethynyl bromo benzene
A mixture of 150 g of 97% bromo iodo benzene, 500 ml of anhydrous dimethylformamide, 100 ml of triethylamine, 50 g of trimethylsilyl acetylene, 2.1 g of copper iodide and 2.22 g of bis-(triphenylphosphine)-palladium (II) dichloride was stirred for 2 hours and then 500 ml of ice-cooled water were added. The mixture was extracted 3 times with 500 ml of ethyl acetate and the organic phase was washed with salt water, then dried over sodium sulfate, and evaporated under reduced pressure to obtain 136.542 g of a brown oil which was purified by distillation under reduced pressure to obtain 106.979 g of the expected product with a boiling point of 75°-82° C. under 0.2 mbar and a melting point of 62° C.

reactant | bromo iodo benzene | 150 g | BrC1=C(C=CC=C1)I | C6H4BrI
reactant | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
reactant | triethylamine | 100 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl acetylene | 50 g | C[Si](C)(C)C#C | C5H10Si
catalyst | copper iodide | 2.1 g | [Cu](I)I
catalyst | bis-(triphenylphosphine)-palladium (II) dichloride | 2.22 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | O | H2O
product | 4-trimethylsilylethynyl bromo benzene | 136.542 g | C[Si](C)(C)C#CC1=CC=C(C=C1)Br | C11H13BrSi
